data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7517,"C=CC(C)=O.CCCC1CC2=C(C(=O)C1=C[O:1][H:2])C(O)=C(OC)C=C2.CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4555,"C[O+:1](C)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5058,"[Li][P:1](C)(Cl)(Cl)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,4469,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=CC=C(OC[C:1](C)(C2(SC3=CC=CC=C3)CC2)[OH2+:2])C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,522,"C[CH:1]=[N+:2](C)C.[I-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5361,"CO[CH:1]=[OH+:2].C[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7625,"BrC(Br)Br.ClC1=C([CH2:1][O:2][P+:3](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC(Br)=C1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,594,"CC(=O)CC1C(=O)CCC[C:1]1([NH2:2])[OH2+:3].CC(=O)[O-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3879,"CC1(C)CC2=C(C=NN2C2=CC=C(F)C=C2)C(=O)C1([NH2+]C1=C(N)C=CC(C(=O)C2=CC=CC=C2)=C1)[O-:1].CCO.NC1=C([NH2+:2][H:3])C=CC(C(=O)C2=CC=CC=C2)=C1.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4289,"O=[S+:1](=O)[Cl:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8782,"C=C(C)C[OH:1].C[C+:2](C)[CH:3](O)[H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,2891,"C[S:1][Br:2].C[SH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,722,"CCOC(=O)C(=O)CC(C1=CC=CC=C1)[C:1](C1=NC2=C(C=CC=C2)C=C1)([C:2]1=[N+](C2=C(F)C(F)=C(F)C(F)=C2F)N=C2C(F)CC(C(C)C)N21)[O-:3].CC[NH+](C(C)C)C(C)C.F[B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8137,"C1CCC2=[NH+]CCCN2CC1.C[C:1](=[C:2]1N(C2=CC=CC=C2)N=N[C:3]1(C)[OH:4])[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3840,"C1=CC([CH:1]=[O:2])=CC=C1C1CCCCC1.CCC[CH2:3][Li:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4398,"O[C:1]1([OH:2])OCCC[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3249,"CC(=O)[N:1](C)[H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7518,"C[C+:1](C)[NH2:2]|(2, 1)"
train,pmechdb_split_0,0,432,"CC(=O)OC(C)([O-])[O+:1](N=CC(O)CO)[H:2].CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4734,"CCNC(C)(C)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6081,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CN(C(=O)N(C)C1CC[NH+](C2([O-:3])CCC(=O)C2)CC1C1=CC=C(F)C=C1)C1=CC(C(F)(F)F)=CC(C(F)(F)F)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5000,"O=C1C(CCC(O)C2=CC=C(F)C=C2)C(C2=CC=C([O:1][H:2])C=C2)N1C1=CC=C(F)C=C1.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2668,"O=C1C2=C(C=CC=C2)C(=[O:1])N1CC1=CC=CC=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7325,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.ClC1=CC=C(C=CC[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4889,"CC(=O)[O-].CCCC[N+](CCCC)(CCCC)CCCC.COCOC(=O)C1=C(OC)C2C#CC=CC#CC3C4(OC24[C:1]2=[C:2](C=C[C:3]([O:4][I:5](OC(C)=O)C4=CC=CC=C4)=[CH:6]2)[N-:7]3)C1C.O=C=O|(7, 2);((2, 1), 6);((6, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3208,"CCCCCC(C[C:1]#[C:2]CC)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,8969,"C1=CC=C2C(=C1)C1=C(C=CC=C1)[C:1]2=[CH2:2].C1CC[NH:3]CC1.O=C(O)NCC(=O)NC1=CC=C(Cl)C=C1I|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5113,"CCOC(=O)CC(O)(OCC)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9207,"B.CC1CCC2(C)CCC3(C)C(=CC(=O)C4C5(C)CC(C#N)C([O-:1])C(C)(C(=O)OC(C)(C)C)C5CCC43C)C2C1C.C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2958,"CC(=O)[O-:1].CCOS(C)(C)OC(NC)=[N+:2](C)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5346,"CC(=O)C=C[CH:1]=[OH+:2].O=C1OC(C(O)CO)[C:3]([OH:4])=[C:5]1O|(4, 3);((3, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4668,"C[C:1]1=[CH:2]CCCCC1(C1=CC=CC=C1)C1=CC=CC=C1.[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7947,"CC(C)(C[N+](=O)[O-])[O-:1].CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,501,"BrC(Br)Br.Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.ClC1=C(C[O-:2])C=C2C=CC=CC2=N1|(2, 1)"
train,pmechdb_split_0,0,6639,"OC1(O)CCCC[O:1]1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9348,"CC(=O)[O-:1].CCOP(C)(C)(C)N(NC(=O)OC)C(OC)=[O+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4557,"C1CC[N:1]([CH:2]=[CH2:3])CC1.[CH3:4][Br:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5795,"CCC1CC[C+:1](C)C1.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,6340,"[BH3-][OH:1].[CH2:2]=[NH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6467,"C1=CC=C([CH:1]=[O:2])C=C1.C=CC(=O)COC(C)=O.C=CC(C)=O.CC1=C(CCO)S[C-:3]=[N+]1CC1=CC=CC=C1.CC[NH+](CC)CC.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4813,"C#CC[C:1](C(=O)OC)(C(=O)OC)[H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2771,"CCC(CO)[NH2:1].O=C(C1=CC=CC=C1)[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2249,"C1CCCC2C(CC1)[O:1]2.CC[N](CC)[Li:2]|(1, 2)"
train,pmechdb_split_0,0,4506,"CC1=CC=C([C:1]2(O[Si](C)(C)C)[CH:2]([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[Si-:3](C)(C)(C)[O:4]2)C=C1|((3, 2), 1);((1, 4), 4)"
